US05093332
Borane-dimethylsulfide (9.5 ml, 10M, 95 mmol) was added to a solution of (2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno-[2,3-b][1,4]thiazin-3-yl)acetic acid (3.25 g, 9.5 mmol) in dimethoxyethane (325 ml) and the resulting solution was heated under reflux for 24 hours. Methanol (100 ml) was added to the cooled reaction mixture, and after stirring for an additional 24 hours, the mixture was evaporated to a thick oil. The oil was partitioned between water and ethyl acetate and the organic layer was washed with brine and dried over sodium sulfate. Removal of the solvent and recrystallization of the residue from water gave 1.5 g. Chromatographic purification over silica gel eluting with CHCl3 /MeOH/NH4OH (70:30:3) gave 3-(2-hydroxyethyl)-2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine, mp 158°-160° C.

reactant | Borane dimethylsulfide | 95 mmol, 10M, 9.5 ml | B.CSC
reactant | (2,3-dihydro-2,4,4-trioxo-6-sulfamoyl-1H-thieno-[2,3-b][1,4]thiazin-3-yl)acetic acid | 9.5 mmol, 3.25 g | O=C1NC2=C(S(C1CC(=O)O)(=O)=O)SC(=C2)S(N)(=O)=O | C8H8N2O7S3
reactant | Methanol | 100 ml | CO | CH4O
solvent | dimethoxyethane | 325 ml | C(OC)COC | C4H10O2
product | 3-(2-hydroxyethyl)-2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | OCCC1CNC2=C(S1(=O)=O)SC(=C2)S(N)(=O)=O | C8H12N2O5S3
